US07495027B2
Preparation of 3-(4-Chlorophenyl)-4-methoxy-5-[(Z)-1-naphthylmethyl-idene]furan-2(5H)-one
A stirred mixture of 4-chlorophenylboronic acid (259 mg, 166 mmol), K3PO4 (962 mg, 4.53 mmol) and Pd(PPh3)4 (52 mg, 45.3 μmol) under N2 is treated sequentially with of 3-bromo-4-methoxy-5[(Z)-1-naphthylmethylidene]furan-2(5H)-one (500 mg, 1.51 mmol) and 9.3 mL of a 2:1 v/v mixture of dioxane/THF, heated at 90° C. until the disappearance of starting material by thin layer chromatography, cooled to room temperature, diluted with water and extracted with EtOAc. The extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, 25% EtOAc in hexanes as eluent) to afford the title product as a yellow solid, 380 mg (69% yield), identified by NMR and mass spectral analyses.

reactant | 4-chlorophenylboronic acid | 166 mmol, 259 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K3PO4 | 4.53 mmol, 962 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromo-4-methoxy-5[(Z)-1-naphthylmethylidene]furan-2(5H)-one | 1.51 mmol, 500 mg | BrC=1C(O\C(\C1OC)=C/C1=CC=CC2=CC=CC=C12)=O | C16H11BrO3
reactant | dioxane THF | O1CCOCC1.C1CCOC1
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 45.3 μmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-Chlorophenyl)-4-methoxy-5-[(Z)-1-naphthylmethyl-idene]furan-2(5H)-one | 69% yield | ClC1=CC=C(C=C1)C=1C(O\C(\C1OC)=C/C1=CC=CC2=CC=CC=C12)=O | C22H15ClO3
